* Tone stage from a popular guitar pedal

Vin vi 0 PULSE(-1 1 0 20m 1u 1u 20m)

R8 vi n1 39k
C8 n1  0 10n IC=0

C9 vi n2  4n IC=0
R5 n2  0 22k

Rtp n2 vo 70k
Rtm n1 vo 30k

.tran 0 80m 0 1.0u
* .ac dec 100 10 20k
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
